US06326386B1
1-{3-[2-(tert-Butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoyl}-piperidine-2-carboxylic acid ethyl ester
To a stirred solution of 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid (0.12 g) in dichloromethane (4 ml) was added dimethylformamide (0.05 ml) followed by 2M oxalyl chloride solution in dichloromethane (0.183 ml). The resultant solution was stirred at room temperature for 1 h, and then ethyl pipecolinate (0.096 g) followed by DIPEA (0.160 ml) were added. After 18 h, the reaction mixture was concentrated under reduced pressure and the residue was subjected to preparative hplc. The title compound (0.165 g) was obtained as a colourless oil by concentration of the required fraction under reduced pressure and drying by repetitive addition of acetonitrile and concentration under reduced pressure.

reactant | 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid | 0.12 g | C(C)(C)(C)OC(=O)N(CCOC=1C=C(C(=O)O)C=C(C1)Cl)C1=CC=NC=C1 | C19H21ClN2O5
reactant | oxalyl chloride | 2M | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethyl pipecolinate | 0.096 g | N1C(C(=O)OCC)CCCC1 | C8H15NO2
reactant | DIPEA | 0.160 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.183 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 0.05 ml | CN(C=O)C | C3H7NO
product | 1-{3-[2-(tert-Butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoyl}-piperidine-2-carboxylic acid ethyl ester | 0.165 g | C(C)OC(=O)C1N(CCCC1)C(C1=CC(=CC(=C1)Cl)OCCN(C1=CC=NC=C1)C(=O)OC(C)(C)C)=O | C27H34ClN3O6
